US08026257B2
4-(1-(Cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazol-5-yl)benzonitrile.
tert-Butyl 4-(((5-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (23 mg, 0.04 mmol) was combined with aqueous formaldehyde (37%, 0.5 mL, 168 equiv) and formic acid (0.5 mL, 329 equiv) and heated at 70° C. for 64 h. At the end, after adjusting the pH of the reaction mixture to 6.0 extractive work up with ethyl acetate followed by evaporation of the organic layer in vacuo gave the crude product. The crude product was purified by preparative HPLC (HPLC method 12). Fractions containing the required product were combined and evaporated in vacuo. The residue obtained was purified by silica gel chromatography using a linear gradient of 1.2%-20% methanol in dichloromethane to obtain 12 mg (50% yield) as a TFA salt. 1H-NMR (500 MHz, CD3OD) δ 7.92 (s, 1H), 7.86 (d, JAB=8.5 Hz, 2 H), 7.81 (d, JAB=8.5 Hz, 2 H), 7.67-7.65 (m, 1 H), 7.63 (d, J=8.2 Hz, 1 H), 7.39-7.32 (m, 4 H), 7.24 (m, 1 H), 4.75 (s, 2 H), 3.84 (d, J=6.7 Hz, 2 H), 3.60 (s, 2 H), 3.08 (m, 2 H), 2.67 (m, 2 H), 2.55 (s, 3 H), 2.42 (m, 2 H), 2.12 (m, 2 H), 1.05 (m, 1 H), 0.51-0.48 (m, 2 H), 0.35-0.32 (m, 2 H). 13C NMR (126 MHz, CD3OD) δ 151.8, 146.5, 142.2, 136.1, 134.4, 132.8, 128.8, 128.0, 127.2, 126.8, 123.0, 118.9, 117.6, 111.6, 110.4, 65.5, 51.5, 43.7, 40.4, 30.6, 11.0, 3.6. Mass Spec.: 491(MH)+.

reactant | tert-Butyl 4-(((5-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.04 mmol, 23 mg | C(#N)C1=CC=C(C=C1)C1=CC2=C(N(C(=N2)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2CC2)C=C1 | C36H40N4O3
reactant | formaldehyde | 0.5 mL, 168 equiv | C=O | CH2O
reactant | formic acid | 0.5 mL, 329 equiv | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-(Cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazol-5-yl)benzonitrile | 50% yield | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C2=CC=C(C#N)C=C2)COCC2(CCN(CC2)C)C2=CC=CC=C2 | C32H34N4O
